US09416132B2
To a mixture of 3-(dimethylamino)-2-(3-(trifluoromethyl)phenyl)acrylonitrile (2.93 g, 12.20 mmol) in ethanol (35 ml) was added hydrazine hydrate (3.80 ml, 122 mmol) and acetic acid (6.98 ml, 122 mmol). Upon to reflux; a solution formed. After 5 hours, 0.25 mL of hydrazine hydrate was added and the reaction refluxed an additional 15 hours. The volatiles were removed in vacuo, and the residue partitioned between EtOAc and water. After extracting three times with EtOAc, the combined organics were washed twice with saturated aqueous NaHCO3, dried over Na2SO4, and concentrated in vacuo to cleanly give 4-(3-(trifluoromethyl)phenyl)-1H-pyrazol-5-amine (2.7 g, 97% yield) as a light yellow oil.

reactant | 3-(dimethylamino)-2-(3-(trifluoromethyl)phenyl)acrylonitrile | 12.20 mmol, 2.93 g | CN(C=C(C#N)C1=CC(=CC=C1)C(F)(F)F)C | C12H11F3N2
reactant | hydrazine hydrate | 122 mmol, 3.80 ml | O.NN
reactant | acetic acid | 122 mmol, 6.98 ml | C(C)(=O)O | C2H4O2
reactant | hydrazine hydrate | 0.25 mL | O.NN
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 4-(3-(trifluoromethyl)phenyl)-1H-pyrazol-5-amine | 2.7 g, 97% yield | FC(C=1C=C(C=CC1)C=1C=NNC1N)(F)F | C10H8F3N3
